US04405357
Under an argon atmosphere a stirred solution of 10.0 grams (0.076 mole) of methyl 3-hydroxy-2,2-dimethylpropionate and 6.6 grams (0.083 mole) of pyridine in 40 ml of dry methylene chloride was cooled to 0°. To this 6.0 grams (0.076 mole) of acetyl chloride was added dropwise. Upon completion of addition the reaction mixture was allowed to warm to ambient temperature where it was stirred for 18 hours. The reaction mixture was washed with 50 ml of water, two portions of 50 ml each of an aqueous solution of 5% hydrochloric acid, and finally, 50 ml of water. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to give an oil residue. The oil was distilled under reduced pressure to give 8.0 grams of methyl 3-acetoxy-2,2-dimethylpropionate; bp 85°-90°/33 Pa.

reactant | methyl 3-hydroxy-2,2-dimethylpropionate | 0.076 mole, 10.0 grams | OCC(C(=O)OC)(C)C | C6H12O3
reactant | pyridine | 0.083 mole, 6.6 grams | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.076 mole, 6.0 grams | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | methyl 3-acetoxy-2,2-dimethylpropionate | 8.0 grams | C(C)(=O)OCC(C(=O)OC)(C)C | C8H14O4
